US05807859
A suspension of 1 g of 10-acetamido-10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one in 50 ml of 2N hydrochloric acid is boiled for 1 hour 45 minutes and the solution obtained is concentrated to dryness under reduced pressure (1 mmHg; 0.13 kPa) at 70° C. The product obtained (1.15 g) is dissolved in 100 ml of methanol and, after addition of decolorizing charcoal, the solution is filtered. 300 ml of acetone are added and, after storing for 1 hour at 5° C., the solid formed is isolated by filtration, washed twice with 10 ml in total of chilled acetone and dried under reduced pressure (1 mmHg; 0.13 kPa) at 100° C. 0.39 g of 10-amino-10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one hydrochloride is thus obtained, decomposing without melting above 260° C. (NMR spectrum: [200 MHz; (CD3)2SO-d6 ; δ in ppm]: 1.97 (s, 3H: --CH3 at 10); 7.48 and 7.55 (2t, J=7.5 Hz, 1H each: --H 7 and --H 8); 7.70 and 8.75 (2 broad s, 1H each: --H of the imidazole); 7.95 and 8.08 (2d, J=7.5 Hz, 1H each: --H 6 and --H 9); 9.39 (mult., 3H: --NH3+Cl- at 10); 12.64 (mult., 1H: --NHCO--)).

reactant | 10-acetamido-10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 1 g | C(C)(=O)NC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)C | C16H14N4O2
reactant | charcoal | C | CH4
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 10-amino-10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one hydrochloride | 0.39 g | Cl.NC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)C | InChI=1S/C14H12N4O.ClH/c1-14(15)9-5-3-2-4-8(9)10-11(14)18-7-6-16-12(18)13(19)17-10;/h2-7H,15H2,1H3,(H,17,19);1H
